Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right Frontal Mass
 
Major Surgical or Invasive Procedure:
___ Craniotomy for tumor resection

 
History of Present Illness:
This is a ___ y.o. M with widely metastatic melanoma including 
involvement of liver, lung, bone, subcutaneous nodules and 
multiple cerebral metastasis.  He is s/p IL therapy and 
currently undergoing CTLA4 therapy.  The therapy is complicated
by colitis requiring steroid treatment. The steroid was tapered 
to off in late ___.  While most of the systemic 
metastasis responded to CTLA4, the right frontal mass increased 
in size from ___ MRI (4 x 2.8 x 3 cm) to the ___ MRI 
(5.5 x 3.5 x 3.5 cm).  Neurosurgery is consulted with regard to 
surgical resection of the lesion

 
Past Medical History:
Metastatic melanoma (see below for oncologic history)  
HTN  
DM2  
.  
Past oncologic history:  
Mr. ___ presented in ___ with a 5-mm 
malignant melanoma of stage IIC (T4, N0, M0, ___ level IV), at 
which time he had an excision and then he received interferon 
for 11 months. Four months later, he went in for follow up at 
the ___ and he developed a new right preauricular mass at the 
excision site and underwent reexcision as well as parotidectomy 
at the ___, followed by involved-field radiation with 5000 cGy in 
___ in ___. In ___, he developed lesions 
on his lips, right leg, left occiput, and left temple. All the 
lesions were excised and pathology revealed incompletely excised 
metastatic melanoma. He additionally underwent a CT scan of the 
torso on ___ which revealed lung, liver, soft 
tissue, bone, and adrenal metastasis. On ___, he 
underwent a CT scan of the brain that showed three lesions, two 
15 mm lesions in the right and left frontal lobes with 
associated edema, but no evidence of shift and a third lesion in 
the right frontoparietal lobe.  

 
Social History:
___
Family History:
His father had melanoma with extensive disease on his nose which 
required essentially entire excision of his nose and then he 
believes he developed metastatic disease. He died of an MI at 
age ___. His mother is ___ and still alive. He has no siblings. 
His children are all healthy.  
 
Physical Exam:
Upon admission:
On examination, the patient is awake, alert, and appropriate
His speech appear fluent and comprehension intact
He does not appear in any acute distress.

VFF. mild papilledema. EOMI. ___. hearing and SCM symmetric.
tongue and uvula midline.

Normal tone and bulk. No abnormal movements.  Full strength
except LLE (___).  Able to stand without the use of his arms.

Sensation intact to LT.

Diffusely hyporeflexic. No Hoffmans or Clonus.

Rhomberg negative. Normal gait. Normal FTN and RAM.

On Discharge:
XXXXXXXXXXXX

 
Pertinent Results:
Labs on Admission:
___ 12:13PM BLOOD WBC-3.3* RBC-4.37* Hgb-13.4* Hct-38.7* 
MCV-89 MCH-30.6 MCHC-34.6 RDW-14.7 Plt ___
___ 12:13PM BLOOD Neuts-63.3 ___ Monos-9.1 Eos-2.2 
Baso-0.3
___ 12:13PM BLOOD ___ PTT-22.7 ___
___ 12:13PM BLOOD ESR-18*
___ 12:13PM BLOOD UreaN-20 Creat-1.0 Na-140 K-4.2 Cl-106 
HCO3-29 AnGap-9
___ 12:13PM BLOOD ALT-20 AST-25 LD(LDH)-220 AlkPhos-82 
Amylase-39 TotBili-0.3 DirBili-0.1 IndBili-0.2
___ 12:13PM BLOOD TotProt-7.2 Albumin-4.7 Globuln-2.5 
Calcium-9.6 Phos-3.8 UricAcd-4.2

Labs on Discharge:
XXXXXXXXXXXXX

MRI HEAD ___:
FINDINGS: Since the previous study the patient has undergone 
resection of
right frontal enhancing mass lesion. Blood products are seen at 
the surgical site with a small area of slow diffusion involving 
the brain at the margin of surgical resection and most likely 
related to the surgical procedure. Following gadolinium there is 
no evidence of a definite area of residual enhancement 
identified in the right frontal region. The previously noted 
right posterior frontal enhancing lesion is also no longer 
visible. This lesion was also not visualized on the MRI of 
___ and ___. There remains some mass effect on the right 
lateral ventricle and corpus callosum. There is no 
hydrocephalus. 
IMPRESSION: Status post resection of right frontal tumor. 
Marginal slow
diffusion could be related to surgical procedure. Blood products 
at the
surgical site are seen without definite residual enhancement. 
Small bilateral subdurals appear related to the recent surgery. 
Pneumocephalus. Small areas of susceptibility as before.

CT Head ___:
FINDINGS: Multiple postoperative changes are notable in the 
brain including
osseous defects consistent with right frontal craniotomy. 
Subjacent to this
site is what is likely postoperative pneumocephalus. Right 
frontal defects
are consistent with surgical mass excision. There is adjacent 
right frontal
hypodensity, indicating edema, which was present on preoperative 
studies. A
small amount of hyperdense fluid is seen layering posteriorly 
within the
occipital horns of the lateral ventricles bilaterally consistent 
with a small amount of hemorrhage. There is no other evidence of 
large intracranial bleeding. There is no shift of normal midline 
structures. Apart from the surgical defects, visualized osseous 
structures are unremarkable. The paranasal sinuses are notable 
for mucosal thickening in the maxillary sinuses bilaterally, 
more prominently on the left. The mastoid air cells are clear. 
IMPRESSION: Multiple postoperative changes as detailed above. 
There is no
evidence of large postoperative intracranial bleeding.

EKG ___:
Sinus bradycardia
Normal ECG except for rate
Since previous tracing of ___, heart rate slower
 IntervalsAxes
___
___ y.o. M with widely metastatic melanoma including involvement 
of liver, lung, bone, subcutaneous nodules and multiple cerebral 
metastasis.  He is s/p IL therapy and
currently undergoing CTLA4 therapy.  The therapy is complicated 
by colitis requiring steroid treatment. The steroid was tapered 
to off in late ___.  While most of the systemic 
metastasis responded to CTLA4, the right frontal mass increased 
in size from ___ MRI (4 x 2.8 x 3 cm) to the ___ MRI 
(5.5 x 3.5 x 3.5 cm). Neurosurgery is consulted with regard to 
surgical resection of the lesion. Review of system is notable 
for increased frequency of HA as well as difficulty negotiating 
stairways. The wife states that the patient has a tendency to 
lean to one side.

He was admitted on ___ to begin work up for planned surgical 
resection of said frontal lesion.  He went to the OR on ___ for 
surgical resection.  Post-operatively he was maintained in the 
ICU for 24h of observation.  On POD#1, he was transferred to 
neurosurgery floor. Decadron taper to off was started.  
Neurological examination after surgery was intact, without focal 
deficit. He was seen and evaluated by physical and occupational 
therapy who determined he would be appropriate for home 
discharge with appropriate supervision. 
 
Medications on Admission:
Atenolol, Doxazosin, Gemfibrozil, Insulin, Lisinopril, 
Simvastatin

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
3. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Prilosec OTC 20 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed: Please continue to take Colace/Docusate; while 
you require narcotic pain medication.
Disp:*40 Tablet(s)* Refills:*0*
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
9. Dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) for 4 doses.
Disp:*4 Tablet(s)* Refills:*0*
10. Dexamethasone 0.5 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) for 4 doses: to start after 2mg dosing 
completed.
Disp:*8 Tablet(s)* Refills:*0*
11. Levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*0*
12. Outpatient Occupational Therapy
13. Outpatient Physical Therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right frontal mass

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
 
General Instructions/Information

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Your wound closure uses dissolvable sutures, you must keep 
that area dry for 10 days. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc.  
•You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
•You are being sent home on steroid medication, make sure you 
are taking a medication to protect your stomach (Prilosec, 
Protonix, or Pepcid), as these medications can cause stomach 
irritation.  Make sure to take your steroid medication with 
meals, or a glass of milk. 
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home.
CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: increasing redness, 
increased swelling, increased tenderness, or drainage.
•Fever greater than or equal to 101° F.

 
Followup Instructions:
___